US05922751
Cuprous iodide (1.15 g, 6.05 mmol) in dry THF (10 ml) was treated at 0° C. with benzylmagnesium bromide (2M in THF, 6.05 ml, 12.1 mmol) over a 3 minute period. The cuprate was stirred at 0° C. for 30 minutes and then cooled to -78° C. and then TMSCl (3.28 g, 30.2 mmol) in THF (5 ml) was added dropwise keeping the reaction temperature below -60° C. The mixture was stirred at below -60° C. for a further 10 minutes and then ethyl-3-(3-cyclopentyloxy-4-methoxyphenyl)-2-acetyl-prop-2-enoate (1 g, 3.01 mmol) in THF (5 ml) was added dropwise over 3 minutes. The mixture was stirred at below -60° C. for 45 minutes and then saturated NH4Cl (30 ml) and water (20 ml) were added. The mixture was allowed to warm to room temperature, the resultant precipitate was removed by filtration and the filtrate evaporated, the residue was dissolved in methylene chloride (200 ml), washed with water (30 ml), In HCl (50 ml) and water (30 ml), dried over Na2SO, and the volatiles removed in vacuo. Flash chromatography (SiO2 ; EtOAc:hexane (1.9)) afforded ethyl-3-(3-cyclopentyloxy-4-methoxyphenyl)-2-acetyl-4-phenyl-butanoate (1.19 g), 92%) as a yellow oil.

reactant | benzylmagnesium bromide | 12.1 mmol, 2M, 6.05 ml | C(C1=CC=CC=C1)[Mg]Br
reactant | TMSCl | 30.2 mmol, 3.28 g | C[Si](C)(C)Cl | C3H9ClSi
reactant | ethyl-3-(3-cyclopentyloxy-4-methoxyphenyl)-2-acetyl-prop-2-enoate | 3.01 mmol, 1 g | C(C)OC(C(=CC1=CC(=C(C=C1)OC)OC1CCCC1)C(C)=O)=O | C19H24O5
reactant | NH4Cl | 30 ml | [NH4+].[Cl-]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | water | 20 ml | O | H2O
product | ethyl-3-(3-cyclopentyloxy-4-methoxyphenyl)-2-acetyl-4-phenyl-butanoate | 1.19 g | C(C)OC(C(C(CC1=CC=CC=C1)C1=CC(=C(C=C1)OC)OC1CCCC1)C(C)=O)=O | C26H32O5
